US07687495B2
b) (S)-2-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-ylmethyl]-3-methyl-butyronitrile
Similar to example 19c, 370 mg of methanesulfonic acid (R)-1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-ylmethyl]-2-methyl-propyl ester in the presence of 275 mg of tetrabutylammonium cyanide in acetonitrile are used to afford the title compound as a yellow oil. Rf=0.30 (EtOAc-heptane 1:1); Rt=5.38.

reactant | methanesulfonic acid (R)-1-[(2R,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-ylmethyl]-2-methyl-propyl ester | 370 mg | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@H](C(C)C)OS(=O)(=O)C | C38H52N2O9S2
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | tetrabutylammonium cyanide | 275 mg | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | (S)-2-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-ylmethyl]-3-methyl-butyronitrile | COC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@H](C#N)C(C)C | C38H49N3O6S
